US06946467B2
1-Boc-4-[(3-pyridinyl)acetyl]piperazine (8.0 g, 26.2 mmol) was added to a solution of borane-THF (2.0 M in THF, 39.5 mL, 78.6 mmol) in THF (200 mL) at 0° C. The mixture was heated to reflux for 8 h and cooled to room temperature. The excess borane was quenched with methanol and 3 N HCl. The mixture stirred for 3 h at room temperature, and the solvents were removed under vacuum. The crude product was purified by chromatography (SiO2, 4:1 CH2Cl2:CMA) to provide 1-[2-(3-pyridinyl)ethyl]piperazine (2.82 g, 36%) as a light yellow oil.

reactant | 1-Boc-4-[(3-pyridinyl)acetyl]piperazine | 26.2 mmol, 8.0 g | C(=O)(OC(C)(C)C)N1CCN(CC1)C(CC=1C=NC=CC1)=O | C16H23N3O3
reactant | borane THF | 78.6 mmol, 2.0 M, 39.5 mL | B.C1CCOC1
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | 1-[2-(3-pyridinyl)ethyl]piperazine | 2.82 g, 36% | N1=CC(=CC=C1)CCN1CCNCC1 | C11H17N3
